US05240976
N,N-Diphenyl-N',N'-dibenzyl-2-butene-1,4-diamine
Following the general procedure of Example 11 by replacing 1-acetoxy-4-dibenzylamino-2-butene with 1-acetoxy-4-diphenylamino-2-butene and replacing dicyclohexylmethylamine with dibenzylamine, the title compound is obtained as a white solid.

reactant | 1-acetoxy-4-diphenylamino-2-butene | C(C)(=O)OCC=CCN(C1=CC=CC=C1)C1=CC=CC=C1 | C18H19NO2
reactant | dibenzylamine | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
product | N,N-Diphenyl-N',N'-dibenzyl-2-butene-1,4-diamine | C1(=CC=CC=C1)N(CC=CCN(CC1=CC=CC=C1)CC1=CC=CC=C1)C1=CC=CC=C1 | C30H30N2
